### PR TITLE
[Merged by Bors] - feat(RingTheory): Add `RingHom.QuasiFinite`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/RingHom/QuasiFinite.lean [hunk 1]
```diff
@@ -0,0 +1,127 @@
...
+    (stableUnderComposition.stableUnderCompositionWithLocalizationAway
+      holdsForLocalizationAway).right
+
+open TensorProduct in
+/-- If `T` is both a finite type `R`-algebra, and the localization of an integral `R`-algebra,
+then `T` is quasi-finite over `R` -/
+lemma QuasiFinite.of_isIntegral_of_finiteType
+    {R S T : Type*} [CommRing R] [CommRing S] [CommRing T] {f : R →+* S} (hf : f.IsIntegral)
+    {g : R →+* T} (hg : g.FiniteType)
+    [Algebra S T] (s : S) [IsLocalization.Away s T] (H : (algebraMap S T).comp f = g) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/RingHom/QuasiFinite.lean]: Should this take `(h : S →+* T) (hh : h.IsStandardOpenImmersion)` instead?

File: Mathlib/RingTheory/RingHom/QuasiFinite.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+lemma QuasiFinite.of_finite {f : S →+* T} (hf : f.Finite) : f.QuasiFinite := by
+  algebraize [f]
+  exact inferInstanceAs (Algebra.QuasiFinite _ _)
+
+lemma QuasiFinite.stableUnderComposition : StableUnderComposition QuasiFinite :=
+  fun _ _ _ _ _ _ _ _ hf hg ↦ comp hg hf
+
+lemma QuasiFinite.of_surjective {f : R →+* S} (hf : Function.Surjective f) : f.QuasiFinite := by
+  algebraize [f]
+  exact .of_surjective_algHom (Algebra.ofId R S) hf
```
Comment (chrisflav) [inline Mathlib/RingTheory/RingHom/QuasiFinite.lean]:
```suggestion
lemma QuasiFinite.of_surjective {f : R →+* S} (hf : Function.Surjective f) : f.QuasiFinite :=
  .of_finite (.of_surjective _ hf)
```
(untested). Assuming that works, do we really need it?

File: Mathlib/RingTheory/RingHom/QuasiFinite.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+lemma QuasiFinite.holdsForLocalizationAway : HoldsForLocalizationAway QuasiFinite := by
+  introv R _
+  exact quasiFinite_algebraMap.mpr (.of_isLocalization (.powers r))
+
+attribute [local instance high] Algebra.TensorProduct.leftAlgebra Algebra.toModule
+    IsScalarTower.right DivisionRing.instIsArtinianRing in
+lemma QuasiFinite.ofLocalizationSpanTarget : OfLocalizationSpanTarget QuasiFinite := by
+  rw [RingHom.ofLocalizationSpanTarget_iff_finite]
+  introv R hs H
+  let := f.toAlgebra
```
Comment (chrisflav) [inline Mathlib/RingTheory/RingHom/QuasiFinite.lean]:
```suggestion
  algebraize [f]
```

**Review by chrisflav — APPROVED** [review]
LGTM, modulo these comments.

File: Mathlib/RingTheory/RingHom/QuasiFinite.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/RingHom/QuasiFinite.lean]: I removed it.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge
